US05891881
rac-1,2-Epoxy-3-octadecylthiopropane (2.0 g, 5.83 mmol) is added to a mixture of cytosine (1.0 g, 9.0 mmol) and anhydrous potassium carbonate (40 mg) in dimethyl formamide (25 mL) over a 30 minute period under a nitrogen atmosphere. The resultant mixture is stirred at 80°-90° C. (oil bath temperature) for 48 hours. The reaction mixture is cooled to room temperature and concentrated in vacuo to leave a residue. The residue is stirred with chloroform (50 mL). The undissolved material is filtered in vacuo, and the filtrate concentrated in vacuo, purified by chromatography and dried in vacuo to afford 1-[2'-hydroxy-3'-octadecylthiopropyl]-cytosine.

reactant | rac-1,2-Epoxy-3-octadecylthiopropane | 5.83 mmol, 2.0 g | O1CC1CSCCCCCCCCCCCCCCCCCC | C21H42OS
reactant | cytosine | 9.0 mmol, 1.0 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl formamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-[2'-hydroxy-3'-octadecylthiopropyl]-cytosine | OC(CN1C(=O)N=C(N)C=C1)CSCCCCCCCCCCCCCCCCCC | C25H47N3O2S
